US05935973
A solution of butyllithium in hexanes (2.5 M; 15.9 ml) was added to a stirring solution of 3-fluoroanisole (5.0 g) in dry tetrahydrofuran (100 ml) at -78° C. and the mixture stirred at that temperature for 30 min. Dry dimethylformamide (3.1 ml) was added and the mixture stirred and allowed to warm to ambient temperature during one hour. Water (150 ml) was added and the mixture extracted with ethyl acetate (3×100 ml). The combined extracts were washed with brine (100 ml), dried over magnesium sulphate, and the solvent removed in vacuo. Distillation of the residue under reduced pressure gave 2-fluoro-6-methoxybenzaldehyde (4.6 g) as an oil b.p. 120° C. at 10.66 mbar.

reactant | butyllithium | C(CCC)[Li]
reactant | 3-fluoroanisole | 5.0 g | FC=1C=C(C=CC1)OC | C7H7FO
reactant | dimethylformamide | 3.1 ml | CN(C=O)C | C3H7NO
reactant | Water | 150 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-fluoro-6-methoxybenzaldehyde | 4.6 g | FC1=C(C=O)C(=CC=C1)OC | C8H7FO2
